US04985419
A solution of 10-((2RS)-1-[(2RS,5RS)-2,5-dimethyl-1-pyrrolidinyl]-2-propyl}-2-phenothiazinecarbothioamide hydrochloride (0.9 g) and propylamine (2.9 cc) in absolute ethanol (20 cc) is saturated with hydrogen sulphide and heated for 12 hours to a temperature in the region of 120° C. After cooling, the solution obtained is purged with nitrogen and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is dissolved in ethyl acetate (100 cc) and I the solution is washed with distilled water (2×20 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual yellow oil (1.09 g) is purified by chromatography on a column (height: 30 cm; diameter: 1 cm) of silica gel (0.04-0.063 mm) with a slight excess pressure of nitrogen (40 kPa), eluting with methylene chloride (200 cc) and then with a mixture (95:5 by volume) (250 cc) of methylene chloride and methanol and collecting 50-cc fractions. The combined fractions 3 to 7 are concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual yellow oil (0.75 g) is dissolved in ethyl acetate (20 cc) and treated with stirring, with a 3N solution (0.6 cc) of hydrochloric acid in ethyl ether. The gum formed is separated by decanting the solvent, taken up in solution in 2-propanol (2 cc) and treated with ethyl ether (10 cc). The solid formed is drained, washed with ethyl ether (2×5 cc) and dried under reduced pressure (5 mm Hg; 0.68 kPa) at 40° C. 10-{(2RS)-1-[(2 RS,5RS)-2,5-Dimethyl-1-pyrrolidinyl]-2-propyl}-N-propyl-2-phenothiazinecarbothioamide hydrochloride (0.63 g) is thereby obtained in the form of a yellow solid, m.p. 138°-140° C. (melts forming a paste).

reactant | 10-((2RS)-1-[(2RS,5RS)-2,5-dimethyl-1-pyrrolidinyl]-2-propyl}-2-phenothiazinecarbothioamide hydrochloride | 0.9 g | Cl.CC1N(C(CC1)C)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S
reactant | propylamine | 2.9 cc | C(CC)N | C3H9N
reactant | hydrogen sulphide | S | H2S
solvent | ethanol | 20 cc | C(C)O | C2H6O
product | 10-{(2RS)-1-[(2 RS,5RS)-2,5-Dimethyl-1-pyrrolidinyl]-2-propyl}-N-propyl-2-phenothiazinecarbothioamide hydrochloride | 0.63 g | Cl.CC1N(C(CC1)C)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(NCCC)=S | InChI=1S/C25H33N3S2.ClH/c1-5-14-26-25(29)20-12-13-24-22(15-20)28(21-8-6-7-9-23(21)30-24)19(4)16-27-17(2)10-11-18(27)3;/h6-9,12-13,15,17-19H,5,10-11,14,16H2,1-4H3,(H,26,29);1H
